US05854268
3-(Benzylamino)methyl-3-hydroxy-1-(2-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]ethyl)pyrrolidine.
The title compound was prepared from 3-(t-butyloxycarbonylamino) methyl-3-hydroxypyrrolidine and 1-chloro-2-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]ethane (prepared from 2-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]ethanol), followed by deprotection and functionalisation as described for 4-(benzylamino)methyl-4-hydroxy-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl)piperidine. mp>56° C. MS, ES+, m/z=417 for (M+H)+ ; δ (360 MHz, D6 -DMSO) 1.60-1.68 (1H, m, CH), 1.80-1.88 (1H, m, CH), 2.40-2.76 (8H, m, 4×CH2N), 2.84 (2H, t, J=7 Hz, CH2 -indole), 3.72 (2H, s, NHCH2Ar), 4.56 (1H, s, OH), 7.17-7.36 (7H, m, Ar--H), 7.47 (1H, d, J=8 Hz, Ar--H), 7.78 (1H, d, J=2 Hz, Ar--H), 9.01 (2H, s, triazole-H), 11.07 (1H, s, indole-NH). (Found: C, 67.40; H, 6.68; N, 19.54. C24H28N6O.0.5 H2O requires C, 67.74; H, 6.87; N, 19.75%).

reactant | 3-(t-butyloxycarbonylamino) methyl-3-hydroxypyrrolidine | C(C)(C)(C)OC(=O)NCC1(CNCC1)O | C10H20N2O3
reactant | 1-chloro-2-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]ethane | ClCCC1=CNC2=CC=C(C=C12)N1C=NN=C1 | C12H11ClN4
reactant | 4-(benzylamino)methyl-4-hydroxy-1-(3-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]propyl)piperidine | C(C1=CC=CC=C1)NCC1(CCN(CC1)CCCC1=CNC2=CC=C(C=C12)N1C=NN=C1)O | C26H32N6O
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | H2O | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-(Benzylamino)methyl-3-hydroxy-1-(2-[5-(1,2,4-triazol-4-yl)-1H-indol-3-yl]ethyl)pyrrolidine | C(C1=CC=CC=C1)NCC1(CN(CC1)CCC1=CNC2=CC=C(C=C12)N1C=NN=C1)O | C24H28N6O
